US05576340
Methyl 2-(2-oxopropoxy)phenylacetate
Following a procedure similar to that described in Preparation 3, but using 15.6 g of methyl 2-hydroxyphenylacetate, 34 g of bromoacetone, 25 g of potassium carbonate and 170 ml of dimethylformamide, the title compound was obtained having an Rf=0.39 (thin layer chromatography over silica gel, using a 3:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | methyl 2-hydroxyphenylacetate | 15.6 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | bromoacetone | 34 g | BrCC(C)=O | C3H5BrO
reactant | potassium carbonate | 25 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 170 ml | CN(C=O)C | C3H7NO
product | Methyl 2-(2-oxopropoxy)phenylacetate | O=C(COC1=C(C=CC=C1)CC(=O)OC)C | C12H14O4
